Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
gait instability
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ old woman with a past medical history 
of a ruptured cerebral aneurysm in ___, hypertension and 
hyperlipidemia who presents as a referral from neurology clinic 
for workup gait imbalance as well as physical therapy 
evaluation. History is difficult to obtain as patient lives 
alone and has difficulty recalling specific timeline.  However, 
patient sister was at bedside and in addition to Dr. ___ 
most recent clinic note, I have obtained the following history.

Patient's sister recalls multiple complaints, the main 1 of 
which being gait instability which has been worsening over the 
past year to year and a half.  She notes that last ___, she 
started using a cane.  However, they see each other infrequently 
and when she saw her neck in ___ of this year at her mother's 
birthday party, she looked much more unsteady.  She also noticed 
a profound weight loss of approximately 40 pounds over that 6 
month period.  Patient sister complains that she has a poor 
memory and needs to be constantly reminded about dates and where 
to find things.  She is also noticed that she has a softer voice 
and more slurred speech within the last year.

Patient herself only really complains of right arm shaking, 
mostly when she is using it such as brushing her teeth or 
writing.  She was apparently evaluated by ___ neurology 3 
months ago where she underwent CT head but we do not have those 
records for reference.  Patient reports that she does feel 
unsteady on her feet but has not had any falls at home.  She 
notes that she lives alone and wants to maintain her 
independence.

Per Dr. ___ note, he initially evaluated her on 
___.  He notes that the patient fell at least 
twice at nighttime when attempting to go the bathroom.  She 
apparently had a workup for malignancy with her primary care 
physician including ___ chest x-ray, breast exam and colonoscopy 
which was unrevealing.  She also had a CT abdomen and pelvis 
which showed a small 8 mm renal nodule was otherwise 
unremarkable.  There does not appear to be a CT chest in our 
records.  On examination, patient was slow, with inattention, 
poor recall and otherwise oriented.  She had hypophonia as well 
as increased tone and rest tremor on the right.  She was unable 
to perform finger tapping on the right.  Her gait was slightly 
wide-based and unsteady with decreased arm swing.  She had a 
positive pull test.  Dr. ___ was concerned about her fall 
risk at home given that she lives independently.  He recommended 
that patient go to the emergency room for workup and physical 
therapy assessment.  Therefore, patient has presented today.

On neuro ROS, patient endorses some dysphagia when gargling 
fluids.  The pt denies headache, loss of vision, blurred vision, 
diplopia, dysarthria, lightheadedness, vertigo, tinnitus or 
hearing difficulty. Denies difficulties producing or 
comprehending speech.  Denies focal weakness, numbness, 
parasthesiae. No bowel or bladder incontinence or retention. 

On general review of systems, notable for weight loss as above.  
The pt denies recent fever or chills.  No night sweats or recent 
weight gain. Denies cough, shortness of breath.  Denies chest 
pain or tightness, palpitations.  Denies nausea, vomiting, 
diarrhea, constipation or abdominal pain.  No recent change in 
bowel or bladder habits.  No dysuria.  Denies arthralgias or 
myalgias. Denies rash.

 
Past Medical History:
Ruptured cerebral aneurysm in ___
Hypertension
Hyperlipidemia
 
Social History:
___
Family History:
Notable for 3 uncles with ___ disease, diagnosed in 
their ___ and ___.
 
Physical Exam:
On admission:

Physical Exam:
Vitals: T: 99.3  P: 67 R: 16  BP: 153/71 SaO2: 100% on room air
General: Awake, cooperative, NAD.  She is wearing sunglasses 
inside due to chronic photosensitivity from her prior ruptured 
aneurysm. 
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in 
oropharynx
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3.  She is extremely vague 
about history and minimizes symptoms.  She is inattentive and 
unable to name days of the week backwards.  Her language is 
fluent but she is hypophonic.  She has intact comprehension.  
There were no paraphasic errors. Pt was able to name both high 
and low frequency objects.  Able to read without difficulty. 
Speech was not dysarthric. Able to follow both midline and 
appendicular commands. Pt was able to register 5 objects with 
multiple attempts and recalled ___ objects spontaneously.  She 
was able to recall 2 more with category cues.  She was unable to 
get the last one with multiple choice.  Her clock drawing was an 
appropriate size however she was very slow in drawing the 
numbers and they were slightly off contour.  She was unable to 
put the correct time.  She was only able to come up with ___ F 
words in 1 minute and she repeated multiple words. There was no 
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without 
nystagmus. Normal horizontal and vertical saccades. VFF to 
confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. 

-Motor: Hands are somewhat atrophied bilaterally.  She has 
increased tone in the right upper extremity at rest.  She has 
bilaterally increased tone with augmentation in both upper 
extremities.  The lower extremities have increased tone at rest 
and worse with augmentation.  There is no obvious rest tremor.  
She does have an intention tremor with writing and action of the 
right hand.  No pronator drift bilaterally.  She has profound 
bradykinesia of the right hand with finger tap as well as 
pronation supination.

  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5-   ___   5   4+  5    5   5     5      5   
R  5-   ___   ___    5   2*    2*     5  
*He was unclear to me if she was getting full effort for TA 
___ on the right as she was able to bear weight and walk 
appropriately.

-Sensory: Patchy sensory loss to pinprick in various dermatomes 
without clear pattern.  Proprioception was intact in the toes.  
Romberg absent.

-DTRs:
  Bi Tri ___ Pat Ach
L  3  2    3    2   2
R  3  2    3    2   2
Plantar response was extensor on the left and mute on the right. 
 

-Coordination: No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation.  Mildly wide-based and unsteady.  She 
walked with a cane but was somewhat hesitant.  The 2 steps to 
turn.  
===

On discharge:
Vitals:  T 98.4 BP 116/70 HR 72 RR 20 O2 sat 97 
MS: awake, alert, oriented to hospital and date, follows 
commands
CN: hypometric saccades but intact eye movements even in the 
vertical plane. 
Motor: Decreased eye blinking, mild hypomimia. Quite hypophonic. 
She also has a right greater than left flexion-extension tremor 
with about 1cm amplitude. Increased tone right>left especially 
with facilitation in bilateral upper extremities. Decreased 
finger tapping after 5 taps on the left and 1 tap on the right 
and very slow especially on the right. Trouble keeping a cadence 
with rapid alternating movements right>left. Able to get up out 
of chairs without assistance and is doing much better. 
Gait: able to stand steadily, uses a cane to walk, mildly wide 
based and stooped posture
 
Pertinent Results:
___ 04:50AM BLOOD WBC-4.6 RBC-3.88* Hgb-13.0 Hct-39.0 
MCV-101* MCH-33.5* MCHC-33.3 RDW-13.9 RDWSD-51.4* Plt ___
___ 04:50AM BLOOD Glucose-93 UreaN-28* Creat-0.7 Na-139 
K-4.4 Cl-99 HCO3-25 AnGap-15
___ 02:57PM BLOOD ALT-10 AST-12 AlkPhos-113* TotBili-0.7
___ 04:50AM BLOOD Calcium-9.3 Iron-99
___ 04:50AM BLOOD calTIBC-264 Ferritn-214* TRF-203
___ 01:30PM BLOOD Folate-10
___ 04:40AM BLOOD VitB12-344
___ 04:40AM BLOOD TSH-2.4
___ 04:50AM BLOOD T4-6.2
 
Brief Hospital Course:
Ms. ___ is a ___ woman with past medical history 
notable for a ruptured cerebral aneurysm in ___ s/p clipping, 
hypertension and hyperlipidemia referred from neurology clinic 
for evaluation of gait imbalance and cognitive decline. Ms. 
___ examination was notable for predominantly right-sided 
bradykinesia and cogwheeling rigidity, with additional frontal 
release signs and gait disturbance overall suggestive of an 
alpha synucleonopathy. In reviewing her history with her family, 
they noted subacute gait disturbance and increased falls over 
the past few years, followed more recently by her concerning 
cognitive changes. Accordingly, her symptoms were felt to most 
likely reflect ___ disease with early stages of possible 
___ dementia. Ms. ___ was started on a trial of 
carbidopa-levodopa during her admission with modest gait 
improvement but persistent bradykinesia and rigidity on 
examination.

Of additional note, Ms. ___ reported a history of a 40 lb 
unintentional weight loss over the past 6 months. As recent 
colonoscopy, abdominal/pelvic CT, and mammogram were reportedly 
unremarkable, a CT chest with contrast was performed to rule out 
occult malignancy; this study revealed a left thyroid nodule, 
with follow-up thyroid ultrasound revealing bilateral thyroid 
nodules amenable to follow-up ultrasound in one year. A 
laboratory panel for nutritional deficiencies underlying her 
cognitive changes, including vitamins B1, B6, B12, and vitamin 
E, copper, and folate was also obtained.

TRANSITIONAL ISSUES
1. Outpatient titration of carbidopa-levodopa (currently on 
___ 1 tab three times per day)
2. Follow up remaining nutritional labs.
3. One-year follow up thyroid ultrasound for incidentally noted 
thyroid nodules.
4. Routine cancer screening per primary care provider.

 
Medications on Admission:
Aspirin 81 mg daily
Furosemide 20 mg daily
Bisoprolol 10 mg daily
Oxybutynin 5 mg daily
Atorvastatin unknown dose
 
Discharge Medications:
1.  Carbidopa-Levodopa (___) 1 TAB PO TID 
RX *carbidopa-levodopa 25 mg-100 mg 1 tablet(s) by mouth three 
times a day Disp #*90 Tablet Refills:*3 
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 10 mg PO QPM  
4.  bisoprolol fumarate 10 mg oral DAILY  
5.  Furosemide 20 mg PO DAILY  
6.  Multivitamins W/minerals 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
___ Disease
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.

Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted for gait unsteadiness and some cognitive 
difficulties. When you were evaluated, you were found to have 
many signs of ___ Disease. This is likely why you have 
been having trouble walking. We started you on a new medication 
called carbidopa-levodopa (aka Sinemet) ___ 1 tablet three 
times per day. This greatly improved your symptoms, and you 
appear to have an easier time walking and staying balanced. 
Please continue to take this medication three times per day.

Please follow up in neurology clinic with Dr. ___ and 
Dr. ___. Someone from our department will call 
you with a date and time. If you do not hear from them by 
___, please call ___ to schedule a follow up 
neurology appointment.

It was a pleasure taking care of you, and we wish you the best!

Sincerely,
Your ___ Team
 
Followup Instructions:
___